US20010009915A1
Step a: 1-Benzyl-4-piperidinylcarboxamide
A mixture of 20 g (156 mmol) of isonipecotamide, 32.4 g (234 mmol) of potassium carbonate, 2 g (12 mmol) of potassium iodide and 18.6 ml (156 mmol) of benzyl bromide in 400 ml of acetonitrile is heated at reflux for 5 hours. The solvent is evaporated off and the residue is taken up in a dichloromethane/water mixture. After decanting, extracting with dichloromethane, washing the organic phases with brine and drying, removal of the solvent by evaporation yields the expected product.

reactant | isonipecotamide | 156 mmol, 20 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | potassium carbonate | 234 mmol, 32.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 12 mmol, 2 g | [I-].[K+]
reactant | benzyl bromide | 156 mmol, 18.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 1-Benzyl-4-piperidinylcarboxamide | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)N | C13H18N2O
